US06071925
(RS)-8-(Acenaphthen-1-yl)-3-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, light brown solid, m.p.>185° C. (dec.) and MS: m/e=398.3 (M+H+) was prepared in accordance with the general method of example 4 from (RS)-8-(acenaphthen-1-yl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one hydrochloride (1:1) and methyl iodide.

reactant | (RS)-8-(acenaphthen-1-yl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one hydrochloride | Cl.C1(CC2=CC=CC3=CC=CC1=C23)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2
reactant | methyl iodide | CI | CH3I
product | (RS)-8-(Acenaphthen-1-yl)-3-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C1(CC2=CC=CC3=CC=CC1=C23)N2CCC3(C(N(CN3C3=CC=CC=C3)C)=O)CC2 | InChI=1S/C26H27N3O.ClH/c1-27-18-29(21-10-3-2-4-11-21)26(25(27)30)13-15-28(16-14-26)23-17-20-9-5-7-19-8-6-12-22(23)24(19)20;/h2-12,23H,13-18H2,1H3;1H
